US08937082B2
Nilotinib base (0.300 g, 0.57 mmol) was dissolved in TFE (2 mL) at 40° C. to obtain a mixture. The mixture was stirred and added to a solution of glutaric acid (0.037 g, 0.28 mmol) in TFE (1 mL) at 40° C. The resulting clear solution was stirred for about 4 h at 40° C. The solution was subsequently cooled to 5° C. The mixture was kept at 5° C. overnight and then MTBE (1.5 v/v) was added to the mixture at room temperature leading to precipitation. The precipitate was filtered to give Nilotinib glutarate form I.

reactant | Nilotinib | 0.57 mmol, 0.300 g | CC=1C=CC(=CC1NC=2N=CC=C(N2)C=3C=CC=NC3)C(=O)NC=4C=C(C=C(C4)N5C=C(N=C5)C)C(F)(F)F | C28H22F3N7O
reactant | glutaric acid | 0.28 mmol, 0.037 g | C(CCCC(=O)O)(=O)O | C5H8O4
solvent | MTBE | CC(C)(C)OC | C5H12O
product | Nilotinib glutarate | CC=1C=CC(=CC1NC=2N=CC=C(N2)C=3C=CC=NC3)C(=O)NC=4C=C(C=C(C4)N5C=C(N=C5)C)C(F)(F)F.C(CCCC(=O)[O-])(=O)[O-] | InChI=1S/C28H22F3N7O.C5H8O4/c1-17-5-6-19(10-25(17)37-27-33-9-7-24(36-27)20-4-3-8-32-14-20)26(39)35-22-11-21(28(29,30)31)12-23(13-22)38-15-18(2)34-16-38;6-4(7)2-1-3-5(8)9/h3-16H,1-2H3,(H,35,39)(H,33,36,37);1-3H2,(H,6,7)(H,8,9)/p-2
